US05152824
A mixture comprising 1.69 g (5.0 mmol) of phenyl N-[(N-dimethylsulfamoyl-N-methylamino)sulfonyl]carbamate, 0.58 g (3.5 mmol) of 3-methyl-5-(2-thienyl)-2-pyrazoline and 10 ml of dry benzene, was refluxed for 10 minutes. The mixture was left to cool, and then benzene was distilled off under reduced pressure. The obtained residue was washed with n-hexane. Then, the residue was stirred together with diethyl ether. The precipitated crystalline product was isolated by suction filtration and then washed with diethyl ether to obtain 1.1 g of the desired 1-[(N-dimethylsulfamoyl-N-methylamino)sulfonylcarbamoyl]-3-methyl-5-(2-thienyl)-2-pyrazoline.

reactant | phenyl N-[(N-dimethylsulfamoyl-N-methylamino)sulfonyl]carbamate | 5.0 mmol, 1.69 g | CN(S(=O)(=O)N(C)S(=O)(=O)NC(OC1=CC=CC=C1)=O)C | C10H15N3O6S2
reactant | 3-methyl-5-(2-thienyl)-2-pyrazoline | 3.5 mmol, 0.58 g | CC1=NNC(C1)C=1SC=CC1 | C8H10N2S
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-[(N-dimethylsulfamoyl-N-methylamino)sulfonylcarbamoyl]-3-methyl-5-(2-thienyl)-2-pyrazoline | 1.1 g | CN(S(=O)(=O)N(C)S(=O)(=O)NC(=O)N1N=C(CC1C=1SC=CC1)C)C | C12H19N5O5S3
